US05292740
By reacting 4,6-dichloro-5-(2-methoxyphenoxy)-2-trifluoromethylpyrimidine with p-tert-butylbenzenesulfonamide and with ethylene glycol Na there was obtained p-tert-butyl-N-[6-(2-hydroxyethoxy)-5(o-methoxyphenoxy)-2-(trifluoromethyl)-4-pyrimidinyl]benzenesulfonamide, m.p. 190°-192° C. (from toluene). Sodium salt: M.p. 288°-289° C.

reactant | 4,6-dichloro-5-(2-methoxyphenoxy)-2-trifluoromethylpyrimidine | ClC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C(F)(F)F | C12H7Cl2F3N2O2
reactant | p-tert-butylbenzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N | C10H15NO2S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | p-tert-butyl-N-[6-(2-hydroxyethoxy)-5(o-methoxyphenoxy)-2-(trifluoromethyl)-4-pyrimidinyl]benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCO)C(F)(F)F | C24H26F3N3O6S
